US07956054B2
1-(2′-t-Butoxycarbonyl-3-fluorobiphenyl-4-ylmethyl)-5-propyl-1H-pyrazole-3-carboxylic acid
1-(2′-t-Butoxycarbonyl-3-fluorobiphenyl-4-ylmethyl)-5-propyl-1H-pyrazole-3-carboxylic acid ethyl ester (758 mg, 1.6 mmol) was diluted with MeOH (10 mL, 0.2 mol), and LiOH (233 mg, 4.9 mmol) was added. The mixture was stirred overnight then concentrated to dryness. The residue was dissolved in DCM and water and the aqueous layer was neutralized with AcOH. The water layer was extracted with DCM and the combined organic layers were washed with saturated aqueous NaCl and dried over Na2SO4. The crude product was purified by flash chromatography (EtOAc in hexanes) to yield the title compound (710 mg).

reactant | 1-(2′-t-Butoxycarbonyl-3-fluorobiphenyl-4-ylmethyl)-5-propyl-1H-pyrazole-3-carboxylic acid ethyl ester | 1.6 mmol, 758 mg | C(C)OC(=O)C1=NN(C(=C1)CCC)CC1=C(C=C(C=C1)C1=C(C=CC=C1)C(=O)OC(C)(C)C)F | C27H31FN2O4
reactant | MeOH | 0.2 mol, 10 mL | CO | CH4O
reactant | LiOH | 4.9 mmol, 233 mg | [Li+].[OH-]
product | 1-(2′-t-Butoxycarbonyl-3-fluorobiphenyl-4-ylmethyl)-5-propyl-1H-pyrazole-3-carboxylic acid | 710 mg | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC(=C(C=C1)CN1N=C(C=C1CCC)C(=O)O)F | C25H27FN2O4
